US04847381
3-Hydroxy-6-methyl-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid
A mixture of 30 g of 5-methyl-2,3-indolinedione in 200 ml of water and 30.6 g of sodium hydroxide in 100 ml of water was reacted with a solution of 47.4 g of acetoxyacetylbiphenyl in 500 ml of ethanol. The mixture was refluxed for 3 hours, then 250 ml of ethanol was removed by distillation. A 500 ml portion of water was added, The mixture was stirred, cooled to room temperature and filtered through diatomaceous earth. The filtrate was acidified with 60 ml of concentrated hydrochloric acid and 20 ml of glacial acetic acid. The resulting solid was collected, taken up in dilute ammonia and the insoluble portion collected. This solid was dissolved in 7.4N ammonia, filtered and precipitated with glacial acetic acid, giving 32.0 g of the desired product, mp 236°-238° C.

reactant | 5-methyl-2,3-indolinedione | 30 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | sodium hydroxide | 30.6 g | [OH-].[Na+]
reactant | acetoxyacetylbiphenyl | 47.4 g | C(C)(=O)OCC(=O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H14O3
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-Hydroxy-6-methyl-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid | 32.0 g | OC=1C(=NC2=CC=C(C=C2C1C(=O)O)C)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H17NO3
